US08497368B2
(E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-1-methylhydrazinecarboxamide
The title compound was prepared from 1-methylhydrazine carboxamide and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 21% yield. 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.86 (dd, 1H), 8.31 (d, 1H), 8.05 (s, 2H), 7.97 (d, 1H), 7.77 (d, 1H), 7.72 (s, 1H), 7.47 (q, 1H), 6.54 (s, 2H), 4.58 (s, 2H), 3.19 (s, 3H), 2.37 (s, 3H). LCMS (method A): [MH]+=392, tR=4.76 min.

reactant | 1-methylhydrazine carboxamide | CN(N)C(=O)N | C2H7N3O
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-1-methylhydrazinecarboxamide | 21% yield | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)\C(\C)=N\N(C(=O)N)C | C20H18FN7O
